US06964961B2
B. (3R)-[3-(2-Methoxy-ethoxy)-pyrrolidin-1-yl]-[7-(2-methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-methanone
The title compound was prepared from (3R)-(7-chloro-thieno[3,2-b]pyridin-2-yl)-[3-(2-methoxy-ethoxy)-pyrrolidin-1-yl]-methanone and 2-methyl-1H-indol-5-ylamine by a procedure analogous to Example 1C. MS: 451.3 (MH+); HPLC Rf: 4.385 min.; HPLC purity: 97%.

reactant | (3R)-(7-chloro-thieno[3,2-b]pyridin-2-yl)-[3-(2-methoxy-ethoxy)-pyrrolidin-1-yl]-methanone | ClC1=C2C(=NC=C1)C=C(S2)C(=O)N2C[C@@H](CC2)OCCOC | C15H17ClN2O3S
reactant | 2-methyl-1H-indol-5-ylamine | CC=1NC2=CC=C(C=C2C1)N | C9H10N2
product | (3R)-[3-(2-Methoxy-ethoxy)-pyrrolidin-1-yl]-[7-(2-methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-methanone | COCCO[C@H]1CN(CC1)C(=O)C1=CC2=NC=CC(=C2S1)NC=1C=C2C=C(NC2=CC1)C | C24H26N4O3S
